US04255335
A 1.50 g (0.0090 mole) sample of 4-chlorobenzoylcyanide was added over a one-hour period to 1.50 g (0.0082 mole) of ethyl 1,4-dimethylpyrrole-2-acetate at 120°-130° through which nitrogen was slowly bubbled. The mixture was heated for 27 hours. The resulting oil was chromatographed on silica gel with successive elution with hexane and 1,1,1-trichloroethane. The solvent was evaporated in vacuo from compound-bearing fractions. The residue was chromatographed through a Waters Associates, Prep LC, System 500 with elution with a 2:3 mixture of hexane:1,1,1-trichloroethane. Evaporation of solvent from the second compound-bearing fraction afforded solid which was recrystallized from methanol to give 0.74 g (28 percent yield) of ethyl 5-(4-chlorobenzoyl)-1,4-dimethylpyrrole-2-acetate, mp 108°-109°, undepressed by admixture with authentic material.

reactant | 4-chlorobenzoylcyanide | ClC1=CC=C(C(=O)C#N)C=C1 | C8H4ClNO
reactant | ethyl 1,4-dimethylpyrrole-2-acetate | 0.0082 mole, 1.50 g | CN1C(=CC(=C1)C)CC(=O)OCC | C10H15NO2
product | ethyl 5-(4-chlorobenzoyl)-1,4-dimethylpyrrole-2-acetate | 0.74 g, 28 percent yield | ClC1=CC=C(C(=O)C2=C(C=C(N2C)CC(=O)OCC)C)C=C1 | C17H18ClNO3
